US07947834B2
11.2 g of ethyl 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)piperidine-4-carboxylate, 443 ml of ethanol and 163 ml of 1N aqueous sodium hydroxide solution are introduced into a 1 l round-bottomed flask. The reaction medium is heated at 50° C. for 4 h 30. The ethanol is evaporated under reduced pressure and a 1N aqueous hydrochloric acid solution is subsequently added. The precipitate is filtered off, washed with water and then dried under reduced pressure. 9.5 g of 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)piperidine-4-carboxylic acid are obtained.

reactant | ethyl 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)piperidine-4-carboxylate | 11.2 g | N1(CCCC2=CC=CC=C12)C(=O)N1CCC(CC1)C(=O)OCC | C18H24N2O3
reactant | sodium hydroxide | 1N, 163 ml | [OH-].[Na+]
solvent | ethanol | 443 ml | C(C)O | C2H6O
product | 1-(3,4-dihydroquinolin-1(2H)-ylcarbonyl)piperidine-4-carboxylic acid | 9.5 g | N1(CCCC2=CC=CC=C12)C(=O)N1CCC(CC1)C(=O)O | C16H20N2O3
